* C:\users\fadelrio\Documents\Ingeniería\AdC\TP1 ADC\Draft2.asc
XU1 3 4 +10 -10 V0 TL081
V1 +10 0 10
V2 0 -10 10
R1 2 1 1430
R2 3 2 8660
R3 4 V0 2490
R4 0 4 1k
C1 V0 2 100n
C2 0 3 100n
V4 1 0 PULSE(0 6.66m 49.9m 1p 0 49.9m 49.9m 1)
V5 1 0 PULSE(0 3.33m 99.8m 1p 0 49.9m 49.9m 1)
V6 1 0 PULSE(0 6.66m 149.7m 1p 0 49.9m 49.9m 1)
.inc TL084.txt
.tran 0 300m 0 1000n uic
.backanno
.end
